US07091353B2
2-(2,6-Dioxo-piperidin-3-yl)-4-[(5-hydroxymethyl-furan-2-ylmethyl)-amino]-isoindole-1,3-dione I-125
3-[(5-Hydroxymethyl-furan-2-ylmethyl)-amino]-phthalic acid (3.04 mmol) was treated in the same manner as described above for the synthesis of 2-(2,6-Dioxo-piperidin-3-yl)-4-(2-methoxy-ethylamino)-isoindole-1,3-dione. The solid yellow residue was purified by chromatography (SiO2, 60% ethyl acetate/hexanes) to give 0.40 g of solid which was dissolved in methylene chloride (70 ml) and washed with saturated NaHCO3 (2×100 ml), brine (1×100 ml), dried (magnesium sulfate), and filtered. The solvent was evaporated leaving 0.32 g (27%) of product as a yellow solid: mp 172–174° C.; 1H NMR (DMSO-d6) δ 11.11 (s, 1H), 7.58 (t, J=7.9 Hz, 1H), 7.18 (d, J=8.6 Hz, 1H), 7.06 (d, J=7.0 Hz, 1H), 6.99 (t, J=6.0 Hz, 1H), 6.27 (d, J=2.9 Hz, 1H), 6.20 (d, J=2.9 Hz, 1H), 5.18 (t, J=5.7 Hz, 1H), 5.07 (dd, J=5.2 and 12.5 Hz, 1H), 4.54 (d, J=5.9 Hz, 2H), 4.33 (d, J=5.7 Hz, 2H), 2.96–2.82 (m, 1H), 2.63–2.46 (m, 2H), 2.06–1.99 (m, 1H); 13C NMR (DMSO-d6) δ 172.80, 170.07, 168.80, 167.24, 155.00, 151.10, 145.79, 136.08, 132.12, 117.57, 111.04, 109.71, 108.06, 107.60, 55.63, 48.60, 39.05, 30.98, 22.13; Anal. Calcd. For C19H17N3O6: C, 59.53; H, 4.47; N, 10.96. Found: C, 59.30; H, 4.54; N, 10.70.

reactant | 3-[(5-Hydroxymethyl-furan-2-ylmethyl)-amino]-phthalic acid | 3.04 mmol | OCC1=CC=C(O1)CNC1=C(C(C(=O)O)=CC=C1)C(=O)O | C14H13NO6
reactant | 2-(2,6-Dioxo-piperidin-3-yl)-4-(2-methoxy-ethylamino)-isoindole-1,3-dione | O=C1NC(CCC1N1C(C2=CC=CC(=C2C1=O)NCCOC)=O)=O | C16H17N3O5
product | 2-(2,6-Dioxo-piperidin-3-yl)-4-[(5-hydroxymethyl-furan-2-ylmethyl)-amino]-isoindole-1,3-dione | 0.40 g | O=C1NC(CCC1N1C(C2=CC=CC(=C2C1=O)NCC=1OC(=CC1)CO)=O)=O | C19H17N3O6
